US04079179
A solution of the major isomer of p-nitrobenzyl 7-amino-6-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylate (53 mg., 0.12 mMol) in anhydrous CH2Cl2 (1 ml.) is cooled in an ice-bath and treated with pyridine (10.7 μl, 0.13 mMol) and 2-thienylacetyl chloride (17.8 μl., 0.13 mMol). The resulting solution is stirred in the cold for 30 mins., and then diluted with CH2Cl2, washed with H2O (3x) and brine, dried with MgSO4, filtered, and evaporated in vacuo. Crystallization of the residual yellow oil (66 mg.) from CH2Cl2 - hexane affords p-nitrobenzyl 7-(2-thienylacetamido)-6-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylate as off-white crystals: mp 148°-151° C.; ir (neat) 3.04, 5.57, 5.74, 5.91, 6.54, 7.40, 8.1, 11.67, and 13.5μ; nmr (CDCl3) δ 2.05 (s, 3, COCH3), 3.23 (s, 3, OCH3), 3.38 (s, 2, SCH2), 3.82 (s, 2, thienyl-CH2), 4.75, 5.10 (ABq, 2, J=13Hz, CH2OAc), 5.32 (d, 1, J=9Hz, H7), 5.35 (s, 2, CH2Ar), 6.82 (d, 1, J=9Hz, NH), 6.95 (m, 2, thienyl-H), 7.23 (m, 1, thienyl-H), and 7.53, 8.17 (ABq, 4, J=9Hz, ArH); mass spectrum m/e 561 (M+), 381, 365, 321, and 200.

reactant | p-nitrobenzyl 7-amino-6-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylate | 0.12 mMol, 53 mg | NC1[C@@]2(N(C(=C(CS2)COC(C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)OC | C18H19N3O8S
reactant | pyridine | 0.13 mMol, 10.7 μl | N1=CC=CC=C1 | C5H5N
reactant | 2-thienylacetyl chloride | 0.13 mMol, 17.8 μl | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | p-nitrobenzyl 7-(2-thienylacetamido)-6-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@]2(N(C(=C(CS2)COC(C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)OC | C24H23N3O9S2
